US07368578B2
5-Chloromethyl-1-ethyl-1H-imidazole hydrochloride (6.00 g), triphenylphosphine (25.73 g) and acetonitrile (80 mL) were heated under reflux overnight. After cooling, the precipitated crystals were collected by filtration and washed with hexane to give [(1-ethyl-1H-imidazol-5-yl)methyl](triphenyl)phosphonium chloride hydrochloride as colorless crystals (10.50 g, yield 72%). melting point: 287-289° C.

reactant | 5-Chloromethyl-1-ethyl-1H-imidazole hydrochloride | 6.00 g | Cl.ClCC1=CN=CN1CC
reactant | triphenylphosphine | 25.73 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | [(1-ethyl-1H-imidazol-5-yl)methyl](triphenyl)phosphonium chloride hydrochloride | 10.50 g, yield 72% | Cl.[Cl-].C(C)N1C=NC=C1C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H24N2P.2ClH/c1-2-26-20-25-18-21(26)19-27(22-12-6-3-7-13-22,23-14-8-4-9-15-23)24-16-10-5-11-17-24;;/h3-18,20H,2,19H2,1H3;2*1H/q+1;;/p-1
